US05677346
reacting said 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate sequentially with α-chloroethyl carbonochloridate in dichloroethane, followed by methanol to produce 4-(ethylamino)-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate (desethyloxybutyin).

reactant | 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate | C1(CCCCC1)C(C(=O)OCC#CCN(CC)CC1=CC=C(C=C1)OC)(C1=CC=CC=C1)O | C28H35NO4
reactant | α-chloroethyl carbonochloridate | C(OC(C)Cl)(=O)Cl | C3H4Cl2O2
reactant | methanol | CO | CH4O
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 4-(ethylamino)-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate | C1(CCCCC1)C(C(=O)OCC#CCNCC)(C1=CC=CC=C1)O | C20H27NO3
